US06826033B2
To a suspension of (25)-2-(benzylamino)-3-(4-nitrophenyl)-1-propanol (6.0 g) in ethanol (60 ml) was added (2R)-2-(3-chlorophenyl)oxirane (4.86 g) and the mixture was refluxed for 23 hours. After cooling to room temperature, the solvent was removed by evaporation and the residue was chromatographed on silica gel (eluent: hexane/ethyl acetate=2/1) to give the (2S)-2-[N-benzyl-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-3-(4-nitrophenyl)-1-propanol (5.46 g) as a yellow crystalline solid.

reactant | (25)-2-(benzylamino)-3-(4-nitrophenyl)-1-propanol | 6.0 g | C(C1=CC=CC=C1)N[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N2O3
reactant | (2R)-2-(3-chlorophenyl)oxirane | 4.86 g | ClC=1C=C(C=CC1)[C@H]1OC1 | C8H7ClO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (2S)-2-[N-benzyl-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-3-(4-nitrophenyl)-1-propanol | 5.46 g | C(C1=CC=CC=C1)N(C[C@H](O)C1=CC(=CC=C1)Cl)[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C24H25ClN2O4
